* SpiceNetList
* 
* Exported from untitled.sch at 1/11/2018 4:49 PM
* 
* EAGLE Version 8.4.0 Copyright (c) 1988-2017 Autodesk, Inc.
* 
.TEMP=25

* --------- .OPTIONS ---------
.OPTIONS ABSTOL=1e-12 GMIN=1e-12 PIVREL=1e-3 ITL1=100 ITL2=50 PIVTOL=1e-13 RELTOL=1e-3 VNTOL=1e-6 CHGTOL=1e-15 ITL4=10 METHOD=TRAP SRCSTEPS=0 TRTOL=7 NODE

* --------- .PARAMS ---------

* --------- devices ---------
X_X1 N_5 N_3 VDD 0 N_6 OPAMP 
R_R5 N_8 VDC 18k 
V_V3 VDC 0 3.0v 
R_R11 0 N_3 137k 
R_R2 0 N_5 20k 
V_V1 N_4 0 0V 
R_R7 N_5 VDC 137k 
R_R9 N_4 N_5 5.23k 
R_R3 N_6 N_2 5.23k 
R_R4 N_2 N_7 20k 
R_R6 0 N_8 5.11k 
V_V2 VDD 0 3.3V 
X_X2 N_8 N_2 VDD 0 N_7 OPAMP 
R_R8 0 N_3 5.23k 
R_R10 N_3 N_6 20k 

* --------- models ---------

* (model found in library)

* Autodesk EAGLE
* BASIC OP AMP MODEL
* Device Pins In+ In- vdd vss Vout
* vdd vss unused in this model!!
.SUBCKT opamp 1 2 vdd vss vout
*
* INPUT
RIN   1   2   1e9
*
*  AMPLIFIER STAGE: GAIN, POLE, SLEW
*   Aol=10000, fu=1000000 Hz
G1   0    10  VALUE = { 1e-2 * V(1,2)  }
R1   10   0   1e6
C1   10   0   1.59e-9
*
* 2ND POLE 
G2   0 20   10 0  1e-6
R2   20       0     1e6
C2   20       0     3.3e-14
*
* 3RD POLE 
G3   0 30   20 0 1e-6
R3   30       0     1e6
C3   30       0     3.3e-14
*
* OUTPUT STAGE
EBUFFER 80 0  30  0    1
ROUT 80 vout 100
.ENDS opamp


* --------- simulation ---------
.DC V_V1 0 90e-3 '(0.09)/500' 
.print DC V(N_7) I(V_V3) I(V_V1) I(V_V2)


.save all
.END










